US07098231B2
Methyl 1-cyclopentyl-3-methyl-2-(2-pyridyl)indole-5-carboxylate
The 2-bromoindole from above (1.53 g, 4.55 mmol, 1.0 equiv.) was dissolved in anhydrous THF (20 mL) and the solution was cooled to −78° C. under an argon atmosphere. N-BuLi (solution in hexane, 4.78 mmol, 1.05 equiv.) was added dropwise and the mixture was stirred 30 min in the cold. Trimethylborate (0.62 mL, 5.46 mmol, 1.2 equiv.) was added dropwise and the solution stirred at −78° C. for 40 min and then at 0° C. for 1 h. Finally the reaction mixture was allowed to warm up to room temperature and additional THF (20 mL) was added. para-Tolylphosphine (0.083 g, 0.27 mmol, 0.06 equiv.) and 2-bromopyridine (0.86 g, 5.46 mmol, 1.2 equiv.) were then added and the solution was degassed by bubbling argon through for 30 min. Palladium acetate (10 mg, 0.046 mmol, 0.01 equiv.), anhydrous potassium carbonate (1.26 g, 9.1 mmol, 2 equiv.) and MeOH (20 mL) were added and the mixture was refluxed overnight under an argon atmosphere. After cooling to RT, TBME (12 mL) and water (12 mL) were added, the organic phase was separated and the aqueous phase extracted with additional TBME (2×25 mL). The combined organic layers were washed with brine, dried (Na2SO4) and concentrated to give a residue that was purified by flash chromatography on silica gel using 5–10% EtOAc in hexane as eluent: 1.21 g (79%).

reactant | 2-bromoindole | BrC=1NC2=CC=CC=C2C1 | C8H6BrN
reactant | Trimethylborate | 5.46 mmol, 0.62 mL, 1.2 equiv. | COB(OC)OC | C3H9BO3
reactant | para-Tolylphosphine | 0.27 mmol, 0.083 g, 0.06 equiv. | C1(=CC=C(C=C1)P)C | C7H9P
reactant | 2-bromopyridine | 5.46 mmol, 0.86 g, 1.2 equiv. | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium carbonate | 9.1 mmol, 1.26 g, 2 equiv. | C([O-])([O-])=O.[K+].[K+]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Palladium acetate | 0.046 mmol, 10 mg, 0.01 equiv. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 12 mL | O | H2O
solvent | TBME | 12 mL | CC(C)(C)OC | C5H12O
solvent | MeOH | 20 mL | CO | CH4O
product | Methyl 1-cyclopentyl-3-methyl-2-(2-pyridyl)indole-5-carboxylate | C1(CCCC1)N1C(=C(C2=CC(=CC=C12)C(=O)OC)C)C1=NC=CC=C1 | C21H22N2O2
